US05972965
A mixture of 3-[3-(4,5-diphenyloxazol-2-yl)-3-hydroxy-2-(2-hydroxyethyl)propyl]-1-(t-butyldiphenylsilyloxy)benzene (3.0 g) and methanesulfonyl chloride (1.1 ml) and triethylamine (2.6 ml) in THF (50 ml) was stirred at room temperature for 1 hour. The solution was diluted with ethyl acetate and washed with sat. NaHCO3 and brine, dried over MgSO4, and evaporated. The residue was dissolved in DMF (40 ml) and to the solution was added Na2S (600 mg). After being stirred for 30 minutes at 80° C., the mixture was partitioned between ethyl acetate and water. The organic layer was washed with water, sat. NaHCO3, and brine. The dried solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel to afford 2-(4,5-diphenyloxazol-2-yl)-3-(3-t-butyldiphenylsilyloxybenzyl)tetrahydrothiophene (3.2 g). MS (m/z): 652 (M+ +1) IR (Neat): 1600, 1580 cm-1NMR (CDCl3, δ): 1.08 (9H, s), 2.0-2.5 (4H, m), 2.6-3.2 (3H, m), 4.10 (2/3H, d, J=7 Hz), 4.20 (1/3H, d, J=7 Hz), 6.4-6.8 (3H, m), 6.9-7.1 (1H, m), 7.2-7.8 (20H, m)

reactant | 3-[3-(4,5-diphenyloxazol-2-yl)-3-hydroxy-2-(2-hydroxyethyl)propyl]-1-(t-butyldiphenylsilyloxy)benzene | 3.0 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C(C(CC=1C=C(C=CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCO)O | C42H43NO4Si
reactant | methanesulfonyl chloride | 1.1 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.6 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4,5-diphenyloxazol-2-yl)-3-(3-t-butyldiphenylsilyloxybenzyl)tetrahydrothiophene | 3.2 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1SCCC1CC1=CC(=CC=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C42H41NO2SSi
